US05498630
2,6-Difluorobenzoyl chloride (100 g, 566 mmol) was added dropwise over 2 h to a vigorously stirred and ice water cooled mixture of 2-bromoethyl amine hydrobromide (116.05 g, 566 mmol), benzyltriethylammonium chloride (5 g, 22.0 mmol), 10% aq NaOH (680 mL, 1.7 mol), and CH2Cl2 (1.5 L). The resulting mixture was stirred at RT overnight, than was washed with water (3×200 mL), dried(MgSO4), concentrated, and kugelrohr distilled to afford 51.8 g of 2-(2,6-difluorophenyl)-2-oxazoline as a colorless oil, a 50% yield.

reactant | 2,6-Difluorobenzoyl chloride | 566 mmol, 100 g | FC1=C(C(=O)Cl)C(=CC=C1)F | C7H3ClF2O
reactant | 2-bromoethyl amine hydrobromide | 566 mmol, 116.05 g | Br.BrCCN
reactant | NaOH | 1.7 mol, 680 mL | [OH-].[Na+]
catalyst | benzyltriethylammonium chloride | 22.0 mmol, 5 g | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
solvent | CH2Cl2 | 1.5 L | C(Cl)Cl | CH2Cl2
product | 2-(2,6-difluorophenyl)-2-oxazoline | 51.8 g, 50% yield | FC1=C(C(=CC=C1)F)C=1OCCN1 | C9H7F2NO
